* SPDX-FileCopyrightText: 2025 CERN and the Allpix Squared authors
* SPDX-License-Identifier: CC0-1.0

simulator lang=spectre
global 0

include "/path/to/SPECTRE/netlists/header.scs" section=NOM

subckt Pixel_Analog Pix_in
    R1 (Pix_in 0) resistor r=1
 ends Pixel_Analog


I0 (0 Pix_in) isource type=pulse
X1 (Pix_in) Pixel_Analog

simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1e-06 gmin=1e-20 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 checklimitdest=both

tran tran stop=50u errpreset=conservative annotate=status maxiters=5
